US08334301B2
N-(3-formyl-1-phenyl-1H-pyrazol-5-yl)-N-methylbenzenesulfonamide
To a solution of N-(3-formyl-1-phenyl-1H-pyrazol-5-yl)benzenesulfonamide (331 mg) in N,N-dimethylformamide (5 mL) were added potassium carbonate (182 mg) and iodomethane (215 mg) at room temperature. After stirring at room temperature for 1 hr, the mixture was further stirred at 80° C. for 1 hr, and allowed to cool to room temperature. Water was added and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=7:1→3:1) to give the title compound as a pale-yellow amorphous (yield 297 mg, yield 86%).

reactant | N-(3-formyl-1-phenyl-1H-pyrazol-5-yl)benzenesulfonamide | 331 mg | C(=O)C1=NN(C(=C1)NS(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C16H13N3O3S
reactant | potassium carbonate | 182 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 215 mg | IC | CH3I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-(3-formyl-1-phenyl-1H-pyrazol-5-yl)-N-methylbenzenesulfonamide | yield 86% | C(=O)C1=NN(C(=C1)N(S(=O)(=O)C1=CC=CC=C1)C)C1=CC=CC=C1 | C17H15N3O3S
